US08461134B2
To the solution of 2-chloro-5-nitroaniline (17.3 g, 0.1 mol) in DCM (200 ml) at 0° C., added trifluoroacetic anhydride (13.9 ml, 0.1 mol), followed by triethyl amine (20.9 ml, 0.15 mol). Removed ice bath and stirred at rt for 1 hour. Washed with 1N HCl, water and brine, dried over Na2SO4. Concentrated to get crude N-(2-chloro-5-nitrophenyl)-2,2,2-trifluoroacetamide as light yellow solid.

reactant | 2-chloro-5-nitroaniline | 0.1 mol, 17.3 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | trifluoroacetic anhydride | 0.1 mol, 13.9 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethyl amine | 0.15 mol, 20.9 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(2-chloro-5-nitrophenyl)-2,2,2-trifluoroacetamide | ClC1=C(C=C(C=C1)[N+](=O)[O-])NC(C(F)(F)F)=O | C8H4ClF3N2O3
